US08703805B2
Preparation of 5-{[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methyl}-1H-tetrazole
A mixture of [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile (136 mg, 0.3 mmol), NaN3 (59 mg, 0.9 mmol), NH4Cl (49 mg, 0.9 mmol), and anhydrous DMF (5 mL) was stirred in a sealed vial at 120° C. for 24 h. The mixture was poured into water, and extracted with DCM. The combined extracts were washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The crude product was purified by flash chromatography (0-80% 20% MeOH/DCM) to give the title compound as a white solid (116 mg, 78%). 1HNMR (CDCl3): δ 8.04 (m, 1H), 7.85-7.83 (m, 1H), 7.74-7.71 (m, 1H), 7.62-7.46 (m, 5H), 7.22 (d, 1H), 6.8 (d, 1H), 6.66 (s, 1H), 4.52 (s, 2H), 3.08 (s, 3H). MS(ES): 497 [M+H]+.

reactant | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]acetonitrile | 0.3 mmol, 136 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC#N | C22H16ClN3O2S2
reactant | NaN3 | 0.9 mmol, 59 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 0.9 mmol, 49 mg | [NH4+].[Cl-]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-{[1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methyl}-1H-tetrazole | 116 mg, 78% | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CC1=NN=NN1 | C22H17ClN6O2S2
